US05571821
N-(4-bromo-3-methyl-5-isoxazolyl)thiazole-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and thiazole-2-sulfonyl chloride in 57% yield. This was purified by HPLC (5% CH3CN to 100,% CH3CN over 30 min.) to give a solid., m.p. 175°-177° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | thiazole-2-sulfonyl chloride | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
product | N-(4-bromo-3-methyl-5-isoxazolyl)thiazole-2-sulfonamide | 57% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC=CN1)C | C7H6BrN3O3S2
